** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_sar.sch
.subckt async_sar start comp_out_p comp_done vdd vss sample_en rst_latch done dout[7] dout[6] dout[5] dout[4] dout[3] dout[2]
*+ dout[1] dout[0] dac_in[7] dac_in[6] dac_in[5] dac_in[4] dac_in[3] dac_in[2] dac_in[1] dac_in[0]
*.ipin start
*.ipin comp_out_p
*.ipin comp_done
*.iopin vdd
*.iopin vss
*.opin sample_en
*.opin rst_latch
*.opin done
*.opin dout[7]
*.opin dout[6]
*.opin dout[5]
*.opin dout[4]
*.opin dout[3]
*.opin dout[2]
*.opin dout[1]
*.opin dout[0]
*.opin dac_in[7]
*.opin dac_in[6]
*.opin dac_in[5]
*.opin dac_in[4]
*.opin dac_in[3]
*.opin dac_in[2]
*.opin dac_in[1]
*.opin dac_in[0]
x_inv_srclk vdd comp_done comp_done_b vss async_inverter
x_sr8 vdd vss Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 sr_done vss comp_done_b rst_n_int shift_reg_8bit
x_inv_se1 vdd start start_inv vss async_inverter
x_inv_se2 vdd start_inv sample_en vss async_inverter
x_inv_rst_n_int vdd start rst_n_int vss async_inverter
x_bit0 vdd vss dout[0] comp_out_p Q7 rst_n_int bit_reg
x_nor_dq0 dout[0] Q7 dac_n0 vdd vss async_nor2
x_nor_st0 dac_n0 start dac_in[0] vdd vss async_nor2
x_bit1 vdd vss dout[1] comp_out_p Q6 rst_n_int bit_reg
x_nor_dq1 dout[1] Q6 dac_n1 vdd vss async_nor2
x_nor_st1 dac_n1 start dac_in[1] vdd vss async_nor2
x_bit2 vdd vss dout[2] comp_out_p Q5 rst_n_int bit_reg
x_nor_dq2 dout[2] Q5 dac_n2 vdd vss async_nor2
x_nor_st2 dac_n2 start dac_in[2] vdd vss async_nor2
x_bit3 vdd vss dout[3] comp_out_p Q4 rst_n_int bit_reg
x_nor_dq3 dout[3] Q4 dac_n3 vdd vss async_nor2
x_nor_st3 dac_n3 start dac_in[3] vdd vss async_nor2
x_bit4 vdd vss dout[4] comp_out_p Q3 rst_n_int bit_reg
x_nor_dq4 dout[4] Q3 dac_n4 vdd vss async_nor2
x_nor_st4 dac_n4 start dac_in[4] vdd vss async_nor2
x_bit5 vdd vss dout[5] comp_out_p Q2 rst_n_int bit_reg
x_nor_dq5 dout[5] Q2 dac_n5 vdd vss async_nor2
x_nor_st5 dac_n5 start dac_in[5] vdd vss async_nor2
x_bit6 vdd vss dout[6] comp_out_p Q1 rst_n_int bit_reg
x_nor_dq6 dout[6] Q1 dac_n6 vdd vss async_nor2
x_nor_st6 dac_n6 start dac_in[6] vdd vss async_nor2
x_bit7 vdd vss dout[7] comp_out_p Q0 rst_n_int bit_reg
x_nor_dq7 dout[7] Q0 dac_n7 vdd vss async_nor2
x_nor_st7 dac_n7 start dac_in[7] vdd vss async_nor2
x_psettle vdd vss comp_done gate_settle async_pulse_settle
x_start_del vdd vss start start_n async_start_delay
x_inv_dn vdd done done_n vss async_inverter
x_nand_ctrl vdd vss start_n gate_ctrl done_n async_nand2
x_nor_rstl gate_settle gate_ctrl rst_latch vdd vss async_nor2
x_nand_done vdd vss Q7 done_nand comp_done async_nand2
x_inv_done vdd done_nand done vss async_inverter
.ends async_sar

* expanding   symbol:  sar_adc/blocks/async_sar/async_inverter.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_inverter.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_inverter.sch
.subckt async_inverter vdd input out vss
*.ipin input
*.opin out
*.iopin vdd
*.iopin vss
XM5 out input vdd vdd pfet_03v3 L=0.28u W=0.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 out input vss vss nfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/shift_reg_8bit.sym # of pins=14
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/shift_reg_8bit.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/shift_reg_8bit.sch
.subckt shift_reg_8bit vdd vss Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 done serial_in clk rst_n
*.ipin serial_in
*.ipin clk
*.ipin rst_n
*.opin Q0
*.opin Q1
*.opin Q2
*.opin Q3
*.opin Q4
*.opin Q5
*.opin Q6
*.opin Q7
*.opin done
*.iopin vdd
*.iopin vss
x1 vdd vss Q0 serial_in clk rst_n dff_cell_set
x2 Q0 clk vdd vss rst_n Q1 dff_cell
x3 Q1 clk vdd vss rst_n Q2 dff_cell
x4 Q2 clk vdd vss rst_n Q3 dff_cell
x5 Q3 clk vdd vss rst_n Q4 dff_cell
x6 Q4 clk vdd vss rst_n Q5 dff_cell
x7 Q5 clk vdd vss rst_n Q6 dff_cell
x8 Q6 clk vdd vss rst_n Q7 dff_cell
x9 Q7 clk vdd vss rst_n done dff_cell
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/bit_reg.sym # of pins=6
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/bit_reg.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/bit_reg.sch
.subckt bit_reg vdd vss bit_out comp_out en rst_n
*.ipin comp_out
*.ipin en
*.ipin rst_n
*.opin bit_out
*.iopin vdd
*.iopin vss
x_nand_set vdd vss comp_out set_n en async_nand2
x_inv_set vdd set_n set vss async_inverter
x_inv_rst vdd rst_n rst vss async_inverter
x_nor_q rst bit_out_bar bit_out vdd vss async_nor2
x_nor_qb set bit_out bit_out_bar vdd vss async_nor2
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_nor2.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nor2.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nor2.sch
.subckt async_nor2 A B Y vdd vss
*.ipin A
*.ipin B
*.opin Y
*.iopin vdd
*.iopin vss
x1 vdd A A_b vss async_inverter
x2 vdd B B_b vss async_inverter
x3 vdd vss A_b net1 B_b async_nand2
x4 vdd net1 Y vss async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_pulse_settle.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_pulse_settle.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_pulse_settle.sch
.subckt async_pulse_settle vdd vss in out
*.ipin in
*.iopin vdd
*.iopin vss
*.opin out
x1 vdd in net1 vss async_inverter
x2 vdd net1 net2 vss async_inverter
x3 vdd net2 net3 vss async_inverter
x4 vdd net3 net4 vss async_inverter
x5 vdd net4 net5 vss async_inverter
x6 vdd net5 net6 vss async_inverter
x7 vdd net6 net7 vss async_inverter
x8 vdd net7 net8 vss async_inverter
x9 vdd net8 net9 vss async_inverter
x10 vdd net9 net10 vss async_inverter
x11 vdd net10 net11 vss async_inverter
x12 vdd net11 net12 vss async_inverter
x13 vdd net12 net13 vss async_inverter
x14 vdd net13 net14 vss async_inverter
x15 vdd net14 net15 vss async_inverter
x16 vdd net15 net16 vss async_inverter
x17 vdd net16 net17 vss async_inverter
x18 vdd net17 net18 vss async_inverter
x19 vdd net18 net19 vss async_inverter
x20 vdd net19 net20 vss async_inverter
x21 vdd net20 net21 vss async_inverter
x22 vdd net21 net22 vss async_inverter
x23 vdd net22 net23 vss async_inverter
x24 vdd net23 net24 vss async_inverter
x25 vdd net24 net25 vss async_inverter
x26 vdd net25 net26 vss async_inverter
x27 vdd net26 net27 vss async_inverter
x28 vdd net27 net28 vss async_inverter
x29 vdd net28 net29 vss async_inverter
x30 vdd net29 net30 vss async_inverter
x31 vdd net30 net31 vss async_inverter
x32 vdd net31 net32 vss async_inverter
x33 vdd net32 net33 vss async_inverter
x34 vdd net33 net34 vss async_inverter
x35 vdd net34 net35 vss async_inverter
x36 vdd net35 net36 vss async_inverter
x37 vdd net36 net37 vss async_inverter
x38 vdd net37 net38 vss async_inverter
x39 vdd net38 net39 vss async_inverter
x40 vdd net39 net40 vss async_inverter
x_nor1 in net6 nor1_out vdd vss async_nor2
x_nor2 net12 net20 nor2_out vdd vss async_nor2
x_nand1 vdd vss nor1_out or_1_4 nor2_out async_nand2
x_nor3 net26 net32 nor3_out vdd vss async_nor2
x_nor4 net38 net40 nor4_out vdd vss async_nor2
x_nand2 vdd vss nor3_out or_5_7 nor4_out async_nand2
x_nor_tot or_1_4 or_5_7 nor_tot_out vdd vss async_nor2
x_inv_tot vdd nor_tot_out out vss async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_start_delay.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_start_delay.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_start_delay.sch
.subckt async_start_delay vdd vss in out
*.ipin in
*.iopin vdd
*.iopin vss
*.opin out
x1 vdd in net1 vss async_inverter
x2 vdd net1 net2 vss async_inverter
x3 vdd net2 net3 vss async_inverter
x4 vdd net3 net4 vss async_inverter
x5 vdd net4 net5 vss async_inverter
x6 vdd net5 net6 vss async_inverter
x7 vdd net6 net7 vss async_inverter
x8 vdd net7 net8 vss async_inverter
x9 vdd net8 net9 vss async_inverter
x10 vdd net9 net10 vss async_inverter
x11 vdd net10 net11 vss async_inverter
x12 vdd net11 net12 vss async_inverter
x13 vdd net12 net13 vss async_inverter
x14 vdd net13 net14 vss async_inverter
x15 vdd net14 net15 vss async_inverter
x16 vdd net15 net16 vss async_inverter
x17 vdd net16 net17 vss async_inverter
x18 vdd net17 net18 vss async_inverter
x19 vdd net18 net19 vss async_inverter
x20 vdd net19 net20 vss async_inverter
x21 vdd net20 net21 vss async_inverter
x22 vdd net21 net22 vss async_inverter
x23 vdd net22 net23 vss async_inverter
x24 vdd net23 net24 vss async_inverter
x25 vdd net24 net25 vss async_inverter
x26 vdd net25 net26 vss async_inverter
x27 vdd net26 net27 vss async_inverter
x28 vdd net27 net28 vss async_inverter
x29 vdd net28 net29 vss async_inverter
x30 vdd net29 net30 vss async_inverter
x31 vdd net30 net31 vss async_inverter
x32 vdd net31 net32 vss async_inverter
x33 vdd net32 net33 vss async_inverter
x34 vdd net33 net34 vss async_inverter
x35 vdd net34 net35 vss async_inverter
x36 vdd net35 net36 vss async_inverter
x37 vdd net36 net37 vss async_inverter
x38 vdd net37 net38 vss async_inverter
x39 vdd net38 net39 vss async_inverter
x40 vdd net39 net40 vss async_inverter
x41 vdd net40 net41 vss async_inverter
x42 vdd net41 net42 vss async_inverter
x43 vdd net42 net43 vss async_inverter
x44 vdd net43 net44 vss async_inverter
x45 vdd net44 net45 vss async_inverter
x46 vdd net45 net46 vss async_inverter
x47 vdd net46 net47 vss async_inverter
x48 vdd net47 net48 vss async_inverter
x49 vdd net48 net49 vss async_inverter
x50 vdd net49 net50 vss async_inverter
x51 vdd net50 net51 vss async_inverter
x52 vdd net51 net52 vss async_inverter
x53 vdd net52 net53 vss async_inverter
x54 vdd net53 net54 vss async_inverter
x55 vdd net54 net55 vss async_inverter
x56 vdd net55 net56 vss async_inverter
x57 vdd net56 net57 vss async_inverter
x58 vdd net57 net58 vss async_inverter
x59 vdd net58 net59 vss async_inverter
x60 vdd net59 net60 vss async_inverter
x61 vdd net60 net61 vss async_inverter
x62 vdd net61 net62 vss async_inverter
x63 vdd net62 net63 vss async_inverter
x64 vdd net63 net64 vss async_inverter
x65 vdd net64 net65 vss async_inverter
x66 vdd net65 net66 vss async_inverter
x67 vdd net66 net67 vss async_inverter
x68 vdd net67 net68 vss async_inverter
x69 vdd net68 net69 vss async_inverter
x70 vdd net69 net70 vss async_inverter
x71 vdd net70 net71 vss async_inverter
x72 vdd net71 net72 vss async_inverter
x73 vdd net72 net73 vss async_inverter
x74 vdd net73 net74 vss async_inverter
x75 vdd net74 net75 vss async_inverter
x76 vdd net75 net76 vss async_inverter
x77 vdd net76 net77 vss async_inverter
x78 vdd net77 net78 vss async_inverter
x79 vdd net78 net79 vss async_inverter
x80 vdd net79 net80 vss async_inverter
x81 vdd net80 net81 vss async_inverter
x82 vdd net81 net82 vss async_inverter
x83 vdd net82 net83 vss async_inverter
x84 vdd net83 net84 vss async_inverter
x85 vdd net84 net85 vss async_inverter
x86 vdd net85 net86 vss async_inverter
x87 vdd net86 net87 vss async_inverter
x88 vdd net87 net88 vss async_inverter
x89 vdd net88 net89 vss async_inverter
x90 vdd net89 net90 vss async_inverter
x91 vdd net90 net91 vss async_inverter
x92 vdd net91 net92 vss async_inverter
x93 vdd net92 net93 vss async_inverter
x94 vdd net93 net94 vss async_inverter
x95 vdd net94 net95 vss async_inverter
x96 vdd net95 net96 vss async_inverter
x97 vdd net96 net97 vss async_inverter
x98 vdd net97 net98 vss async_inverter
x99 vdd net98 net99 vss async_inverter
x100 vdd net99 net100 vss async_inverter
x101 vdd net100 net101 vss async_inverter
x102 vdd net101 net102 vss async_inverter
x103 vdd net102 net103 vss async_inverter
x104 vdd net103 net104 vss async_inverter
x105 vdd net104 net105 vss async_inverter
x106 vdd net105 net106 vss async_inverter
x107 vdd net106 net107 vss async_inverter
x108 vdd net107 net108 vss async_inverter
x109 vdd net108 net109 vss async_inverter
x110 vdd net109 net110 vss async_inverter
x111 vdd net110 net111 vss async_inverter
x112 vdd net111 net112 vss async_inverter
x113 vdd net112 net113 vss async_inverter
x114 vdd net113 net114 vss async_inverter
x115 vdd net114 net115 vss async_inverter
x116 vdd net115 net116 vss async_inverter
x117 vdd net116 net117 vss async_inverter
x118 vdd net117 net118 vss async_inverter
x119 vdd net118 net119 vss async_inverter
x120 vdd net119 net120 vss async_inverter
x121 vdd net120 net121 vss async_inverter
x122 vdd net121 net122 vss async_inverter
x123 vdd net122 net123 vss async_inverter
x124 vdd net123 net124 vss async_inverter
x125 vdd net124 net125 vss async_inverter
x126 vdd net125 net126 vss async_inverter
x127 vdd net126 net127 vss async_inverter
x128 vdd net127 net128 vss async_inverter
x129 vdd net128 net129 vss async_inverter
x130 vdd net129 net130 vss async_inverter
x131 vdd net130 net131 vss async_inverter
x132 vdd net131 net132 vss async_inverter
x133 vdd net132 net133 vss async_inverter
x134 vdd net133 net134 vss async_inverter
x135 vdd net134 out vss async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_nand2.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sch
.subckt async_nand2 vdd vss input_A output input_B
*.ipin input_A
*.ipin input_B
*.opin output
*.iopin vdd
*.iopin vss
XM2 net1 input_B vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 output input_A vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 output input_B vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 output input_A net1 vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/dff_cell_set.sym # of pins=6
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell_set.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell_set.sch
.subckt dff_cell_set vdd vss Q D clk rst_n
*.ipin D
*.ipin clk
*.ipin rst_n
*.opin Q
*.iopin vdd
*.iopin vss
x_inv_d vdd D D_b vss async_inverter
x_dff D_b clk vdd vss rst_n net1 dff_cell
x_inv_q vdd net1 Q vss async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/dff_cell.sym # of pins=6
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell.sch
.subckt dff_cell D clk vdd vss rst_n Q
*.ipin D
*.ipin clk
*.ipin rst_n
*.opin Q
*.iopin vdd
*.iopin vss
XM1 clk_n clk vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 clk_n clk vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 M clk_n D_int vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 D_int clk M vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 M_bar M vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 M_bar M vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 M M_bar vdd vdd pfet_03v3 L=2.0u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 M M_bar vss vss nfet_03v3 L=2.4u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 S clk M_bar vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 M_bar clk_n S vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 Q_bar S vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 Q_bar rst_n vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 Q_bar S net1 vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 net1 rst_n vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM15 Q Q_bar vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM16 Q Q_bar vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM17 S Q_bar vdd vdd pfet_03v3 L=2.0u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM18 S Q_bar vss vss nfet_03v3 L=2.4u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM19 D_int D vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM20 D_int D vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
